US05521147
A solution of 1.0 gram (0.003 mole) of 3-(4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-7-yl)-6-trifluoromethyluracil (prepared in a manner analogous to that of Example 1, Step G, except that methyl iodide and potassium carbonate were not used) in 30 mL of tetrahydrofuran was stirred, and 0.5 gram (0.003 mole) of potassium carbonate, then 0.7 gram (0.003 mole) of 1-aminooxysulfonyl-2,4,6-trimethylbenzene were added. Upon completion of the addition, the reaction mixture was stirred for one hour and then diluted with water and extracted with three portions of ethyl acetate. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with 1:4 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated, yielding 1.0 gram of 1-amino-3-(4-chloro-2,3-dihydro-2,2-dimethylbenzofuran- 7-yl)-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-7-yl)-6-trifluoromethyluracil | 0.003 mole, 1.0 gram | ClC1=CC=C(C2=C1CC(O2)(C)C)N2C(NC(=CC2=O)C(F)(F)F)=O | C15H12ClF3N2O3
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.003 mole, 0.5 gram | C([O-])([O-])=O.[K+].[K+]
reactant | 1-aminooxysulfonyl-2,4,6-trimethylbenzene | 0.003 mole, 0.7 gram | NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C9H13NO3S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-amino-3-(4-chloro-2,3-dihydro-2,2-dimethylbenzofuran- 7-yl)-6-trifluoromethyluracil | 1.0 gram | NN1C(=O)N(C(=O)C=C1C(F)(F)F)C1=CC=C(C=2CC(OC21)(C)C)Cl | C15H13ClF3N3O3
